US04125729
Methyl α-(4-chloro-5,6,7,8-tetrahydro-1-naphthyloxy)-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 1.19 g of sodium methoxide, 4.57 g of 4-chloro-5,6,7,8-tetrahydro-1-naphthol, and 100 mg of potassium iodide was added 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene. The mixture was heated at reflux overnight, cooled to room temperature, and poured into 100 ml of water. The mixture was then extracted with 2 × 75 ml of ether. The combined extracts were washed with 2 × 50 ml of 5% NaOH, 2 × 50 ml of water, 50 ml of saturated brine, and dried (MgSO4). Evaporation of the solvent yielded an oil which was chromatographed over 100 g of silica gel (benzene). Concentration of cuts yielded a yellow gum which solidified on standing to give the product as a white solid, mp 87.5°-90° C (6.4 g).

reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | 4-chloro-5,6,7,8-tetrahydro-1-naphthol | 4.57 g | ClC1=CC=C(C=2CCCCC12)O | C10H11ClO
reactant | potassium iodide | 100 mg | [I-].[K+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | Methyl α-(4-chloro-5,6,7,8-tetrahydro-1-naphthyloxy)-α-[p-(p-chlorophenoxy)phenyl]acetate | ClC1=CC=C(C=2CCCCC12)OC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C25H22Cl2O4
